US07585881B2
N-{[3-(3-chlorophenyl)-1,2,4-oxadiazol-5-yl]methyl}-N,4-dimethyl-5-pyridin-4-yl-4H-1,2,4-triazol-3-amine
1-[3-(3-chloro-phenyl)-[1,2,4]oxadiazol-5-ylmethyl]-1,2,3-trimethyl-isothiourea (55 mg, 0.177 mmol) was mixed with isonicotinic hydrazide (29.1 mg, 0.212 mmol) in ethanol (1 mL) at 85° C. o.n. The reaction mixture was diluted with DCM and washed with water. The product was purified by column chromatography with 5˜7% MeOH in EA and triturated with Et2O to give the title compound (22.5 mg, 40%). 1H-NMR: 8.80 (d, 2H), 8.10 (s, 1H), 8.00 (d, 1H), 7.66 (d, 2H), 7.51 (d, 1H), 7.47(t, 1H), 4.80 (s, 2H), 3.74 (s, 3H), 3.15 (s, 3H).

reactant | 1-[3-(3-chloro-phenyl)-[1,2,4]oxadiazol-5-ylmethyl]-1,2,3-trimethyl-isothiourea | 0.177 mmol, 55 mg | ClC=1C=C(C=CC1)C1=NOC(=N1)CN(C(SC)=NC)C | C13H15ClN4OS
reactant | isonicotinic hydrazide | 0.212 mmol, 29.1 mg | C(C1=CC=NC=C1)(=O)NN | C6H7N3O
solvent | ethanol | 1 mL | C(C)O | C2H6O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | N-{[3-(3-chlorophenyl)-1,2,4-oxadiazol-5-yl]methyl}-N,4-dimethyl-5-pyridin-4-yl-4H-1,2,4-triazol-3-amine | 22.5 mg, 40% | ClC=1C=C(C=CC1)C1=NOC(=N1)CN(C1=NN=C(N1C)C1=CC=NC=C1)C | C18H16ClN7O
